US06846833B2
Step a: 3-[(2-Pyridylamino)methyl]benzonitrile
Sodium triacetoxyborohydride (23 g; 108 mmol) is added in small portions to a solution, stirred under an argon atmosphere, of 3-cyanobenzaldehyde (10 g; 63.7 mmol) and 2-aminopyridine (6 g; 63.7 mmol) in 300 ml of 1,2-dichloroethane. After stirring for 12 hours at ambient temperature, the reaction mixture is hydrolysed with methanol and concentrated. The residue obtained is purified by chromotography on silica gel (eluant petroleum ether/ethyl acetate, 3/1 then 2/1 and 1/1) to yield the expected product.

reactant | Sodium triacetoxyborohydride | 108 mmol, 23 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-cyanobenzaldehyde | 63.7 mmol, 10 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | 2-aminopyridine | 63.7 mmol, 6 g | NC1=NC=CC=C1 | C5H6N2
reactant | methanol | CO | CH4O
solvent | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
product | 3-[(2-Pyridylamino)methyl]benzonitrile | N1=C(C=CC=C1)NCC=1C=C(C#N)C=CC1 | C13H11N3
